US08623859B2
4-methoxy-N,2,6-trimethyl-N-[(4-{[4-(2-pyrrolidin-1-ylethyl)piperazin-1-yl]carbonyl}furan-2-yl)methyl]benzenesulfonamide
The title compound was prepared according to general procedure AA using 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (69 mg, 0.20 mmol), CDI (63 mg, 0.39 mmol) and 1-[2-(pyrrolidin-1-yl)ethyl]piperazine (72 mg, 0.39 mmol) in THF (4 mL). The crude product was purified using prep method A.

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.20 mmol, 69 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | CDI | 0.39 mmol, 63 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-[2-(pyrrolidin-1-yl)ethyl]piperazine | 0.39 mmol, 72 mg | N1(CCCC1)CCN1CCNCC1 | C10H21N3
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 4-methoxy-N,2,6-trimethyl-N-[(4-{[4-(2-pyrrolidin-1-ylethyl)piperazin-1-yl]carbonyl}furan-2-yl)methyl]benzenesulfonamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(CC=1OC=C(C1)C(=O)N1CCN(CC1)CCN1CCCC1)C)C | C26H38N4O5S
